US08835628B2
2-ethyl-4-(4-methoxyphenylcarbonyl)-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one
Procedure & NMR Data: 137 mg (2.5 eq, 0.8 mmol) of p-Anisoyl chloride was added to a mixture of 49 mg (4 eq, 1.28 mmol) of NaH and 73 mg (0.32 mmol) of oxazinone P2 in THF (14 mL). 73 mg of P8 were obtained, yield 62%.

reactant | p-Anisoyl chloride | 0.8 mmol, 2.5 eq | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | NaH | 1.28 mmol, 49 mg, 4 eq | [H-].[Na+]
reactant | oxazinone | 0.32 mmol, 73 mg | O1NC(CC=C1)=O | C4H5NO2
reactant | THF | 14 mL | C1CCOC1 | C4H8O
product | 2-ethyl-4-(4-methoxyphenylcarbonyl)-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | yield 62% | C(C)C1C(N(C2=C(O1)C(=CC=C2)C=CC)C(=O)C2=CC=C(C=C2)OC)=O | C21H21NO4
